US08809361B2
1″-(5-Isopropoxy-pyrimidin-2-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
A mixture of 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt; 60 mg), 2-chloro-5-isopropoxy-pyrimidine (25 mg), potassium carbonate (45 mg), and N-methyl-pyrrolidinone (2 ml) is stirred in a microwave oven at 150° C. for 20 min. After cooling to room temperature, water is added and the resulting mixture is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate/methanol 5:5:0→5:5:1) to give the title compound. LC (method 3): tR=0.93 min; Mass spectrum (ESI+): m/z=526 [M+H]+.

reactant | 5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 60 mg | CS(=O)(=O)N1CCC(=CC1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C20H27N3O3S
reactant | 2-chloro-5-isopropoxy-pyrimidine | 25 mg | ClC1=NC=C(C=N1)OC(C)C | C7H9ClN2O
reactant | potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 1″-(5-Isopropoxy-pyrimidin-2-yl)-5-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(C)(C)OC=1C=NC(=NC1)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C27H35N5O4S
